US05561101
4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hexanoyloxyphthalide (Table A, cpd. no. 265)
52 g of 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide and 500 ml of methylene dichloride are cooled in an ice bath and 23 ml of triethylamine and 1.1 g of DMAP added. The mixture is stirred until most of the solid dissolves, 35.2 g of freshly distilled hexanoic anhydride are added and the mixture is stirred for 48 hours under N2 at RT. The solution is washed with 2×100 ml 1 NH2SO4, 1×100 ml 0.1N NaOH and brine dried over Na2SO4 and concentrated to give 58.2 g of crude product which is triturated with 150 ml of ether and filtered to isolate the title product m.p. 103°-105° C.

reactant | 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hydroxyphthalide | 52 g | ClC1=C2C(OC(=O)C2=C(C=C1)Cl)(O)C1=NC(=CC(=N1)OC)OC | C14H10Cl2N2O5
reactant | methylene dichloride | 500 ml | C(Cl)Cl | CH2Cl2
reactant | hexanoic anhydride | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
catalyst | DMAP | 1.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | triethylamine | 23 ml | C(C)N(CC)CC | C6H15N
product | 4,7-dichloro-3-(4,6-dimethoxy-2-pyrimidinyl)-3-hexanoyloxyphthalide | ClC1=C2C(OC(=O)C2=C(C=C1)Cl)(OC(CCCCC)=O)C1=NC(=CC(=N1)OC)OC | C20H20Cl2N2O6
